US06583138B1
2-Amino-6-ethoxy-3-nitropyridine
2.4 g of 60% sodium hydride was slowly added to 100 ml of ethanol and stirred as it was at room temperature for 10 minutes. 10 g of 2-amino-6-chloro-3-nitropyridine was added thereto and reacted at room temperature for 30 minutes. After concentration, water was added thereto, and it was extracted with ethyl acetate. It was washed with water and brine sucsessively, and dried over anhydrous sodium sulfate. After concentration, 9.7 g of the title compound was obtained.

reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 2-amino-6-chloro-3-nitropyridine | 10 g | NC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H4ClN3O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Amino-6-ethoxy-3-nitropyridine | 9.7 g | NC1=NC(=CC=C1[N+](=O)[O-])OCC | C7H9N3O3
